US04985444
To a mixture of 2-phenylpyrazolo[1,5-a]pyridine (5.00 g), 3-methylpyridazine (2.90 g) and methylene chloride (20 ml), was added a solution of ethyl chloroformate (5.57 g) in methylene chloride for 17 minutes under ice-cooling and stirred for an hour at the same temperature and then for 6 hours and 40 minutes at room temperature. To the reaction mixture was added methylene chloride (20 ml), and washed with a solution of potassium carbonate (10 ml) and a saturated aqueous solution of sodium chloride (10 ml) and dried over magnesium sulfate. The solvent was removed and chromatographed on silica gel (70 g) with a mixture of n-hexane and ethyl acetate (2:1). The fractions containing the object compound were combined and evaporated in vacuo and recrystallized from a mixture of ethyl acetate and n-hexane to give 3-(3-methylpyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine (2.36 g).

reactant | 2-phenylpyrazolo[1,5-a]pyridine | 5.00 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1 | C13H10N2
reactant | 3-methylpyridazine | 2.90 g | CC=1N=NC=CC1 | C5H6N2
reactant | ethyl chloroformate | 5.57 g | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(3-methylpyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine | 2.36 g | CC=1N=NC=CC1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C18H14N4
